Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Lidocaine / Ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
colonoscopy prep
 
Major Surgical or Invasive Procedure:
colonoscopy

 
History of Present Illness:
___ with hx of ___'s arteritis s/p aortic graft, coronary 
artery disease and paroxysmal AFib on ASA, asthma, anxiety, 
___ esophagus admitted for screening colonoscopy prep 
given prior difficulty with afib associated with bowel prep. In 
early ___ she received golytely for constipation in setting 
of complication related to a recent TAH. While receiving 
golytely, apparently her afib became difficult to control. For 
this reason, she is admitted for cardiac monitoring in setting 
of screening colonoscopy prep. She describes generally 
well-controlled afib, although dehydration has in the past 
triggered RVR, with associated palpitations and lightheadedness. 
She reports that she has previously required cardioversion x3 
for her afib. Last colonoscopy was in ___, notable only for 
hemorrhoids. She endorses some difficulty with hemorrhoids, 
which leads to rare bright red streaking of stools. Denies 
recent weight change. Endorses chronic constipation which is 
unchanged. She notes a history of constipation-predominant IBS. 
Denies fevers, chills, chest pain, SOB, palpitations, ___ edema, 
orthopnea, PND. 

ROS: All else negative
 
Past Medical History:
PMH per OMR, confirmed in detail with pt:
1.  ___'s arteritis, status post ascending and descending
aortic graft placed in ___ and abdominal aortic repair in ___.
2.  Coronary artery disease, status post stent placement, obtuse 
marginal - EF 45-50% with RWMA on TTE ___.
3.  Asthma.
4.  Hypertension.
5.  Anxiety.
6.  GERD.
7.  Hemorrhoids.
8.  Irritable bowel syndrome.
9.  Dysphagia.
10. CVA - minor, was unaware of afib at that time
11. h/o ventricular tachycardia
12. Afib on ASA

PSH:
1. tubal ligation
2. tonsillectomy
3. endometrial ablation
4. aortic graft placement
5. abdominal aortic repair
6. TAH/BSO

 
Social History:
___
Family History:
MGM - cervical cancer, no ovarian, uterine, colon or breast 
cancer 

 
Physical Exam:
VS: 97.7, 124/68, 66, 16, 99% RA
Gen: Very pleasant, interactive female lying in bed, ambulates 
to bathroom without difficulty, NAD
HEENT: PERRL, EOMI, clear oropharynx, anicteric sclera
Neck: supple, no cervical or supraclavicular adenopathy
CV: RRR, no m/r/g, normal S1, S2
Lungs: CTAB, no wheeze or rhonchi
Abd: soft, nontender, nondistended, no rebound or guarding, 
well-healed surgical site from aortic repair, +BS
GU: No foley
Ext: WWP, no c/c/e
Neuro: Grossly intact

 
Pertinent Results:
___ 09:30PM   GLUCOSE-86 UREA N-11 CREAT-0.7 SODIUM-138 
POTASSIUM-4.1 CHLORIDE-100 TOTAL CO2-26 ANION GAP-16
___ 09:30PM   estGFR-Using this
___ 09:30PM   CALCIUM-9.3 PHOSPHATE-4.1 MAGNESIUM-1.9
___ 09:30PM   WBC-9.8 RBC-4.48 HGB-13.1 HCT-38.4 MCV-86 
MCH-29.2 MCHC-34.1 RDW-12.7 RDWSD-38.7
___ 09:30PM   PLT COUNT-203
___ 09:30PM   ___

Colonoscopy ___
Findings:  

 Mucosa: Normal mucosa was noted in the whole colon.  

 Other The sigmoid was moderately tortuous with some tethering.  
 
 
Impression: Normal mucosa in the whole colon
The sigmoid was moderately tortuous with some tethering.
Otherwise normal colonoscopy to cecum 

Recommendations: -Repeat in ___ years as the prep was fair. MAC 
anesthesia as the patient required high doses of sedation and 
has adhesions and a tortuous sigmoid 

 
Brief Hospital Course:
___ with hx of ___'s arteritis s/p aortic graft, coronary 
artery disease and paroxysmal AFib on ASA, asthma, anxiety, 
___ esophagus admitted for screening colonoscopy prep 
given prior difficulty with afib associated with bowel prep. 
Tolerated colonoscopy prep well and had an unremarkable 
colonoscopy with a fair prep. GI rec colonoscopy in ___.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
2. Aspirin 325 mg PO DAILY 
3. Fluticasone Propionate 110mcg 2 PUFF IH DAILY 
4. Lorazepam ___ mg PO Q8H:PRN anxiety 
5. Losartan Potassium 25 mg PO DAILY 
6. Metoprolol Tartrate 75 mg PO BID 
7. Docusate Sodium (Liquid) 100 mg PO BID:PRN constipation 
8. Senna 8.6 mg PO BID:PRN constipation 
9. Atorvastatin 20 mg PO QPM 
10. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN wheezing 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 20 mg PO QPM 
4. Fluticasone Propionate 110mcg 2 PUFF IH DAILY 
5. Lansoprazole Oral Disintegrating Tab 30 mg PO BID 
6. Lorazepam ___ mg PO Q8H:PRN anxiety 
7. Losartan Potassium 25 mg PO DAILY 
8. Metoprolol Tartrate 75 mg PO BID 
9. Senna 8.6 mg PO BID:PRN constipation 
10. Docusate Sodium (Liquid) 100 mg PO BID:PRN constipation 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for colonoscopy prep. You tolerated this well 
and underwent a colonoscopy on ___.
 
Followup Instructions:
___